US05232925
5-(4-(2-(N-(2-Benzothiazolyl)-N-benzylamino)ethoxy)benzylidene)-2,4-thiazolidinedione
4-(2-(N-(2-Benzothiazolyl)-N-benzylamino)ethoxy)benzaldehyde (3 g) and 2,4-thiazolidinedione (1 g) were dissolved in toluene (200 ml) containing piperidine (0.2 ml) and benzoic acid (0.2 g) and heated to reflux for 4 h. in a Dean and Stark apparatus. On cooling, the solution was concentrated under vacuum to 50% of its volume and the title compound, which crystallised, was collected by filtration and dried in vacuo (m.p. 185°-188° C.). It was used in Example 27 without further purification.

reactant | 4-(2-(N-(2-Benzothiazolyl)-N-benzylamino)ethoxy)benzaldehyde | 3 g | S1C(=NC2=C1C=CC=C2)N(CC2=CC=CC=C2)CCOC2=CC=C(C=O)C=C2 | C23H20N2O2S
reactant | 2,4-thiazolidinedione | 1 g | S1C(NC(C1)=O)=O | C3H3NO2S
reactant | piperidine | 0.2 ml | N1CCCCC1 | C5H11N
reactant | benzoic acid | 0.2 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-(2-(N-(2-Benzothiazolyl)-N-benzylamino)ethoxy)benzylidene)-2,4-thiazolidinedione | S1C(=NC2=C1C=CC=C2)N(CC2=CC=CC=C2)CCOC2=CC=C(C=C1C(NC(S1)=O)=O)C=C2 | C26H21N3O3S2
